US06399603B1
8-((1E)-2-(4-Pyridyl)vinyl)-2-((3,4-dichlorophenyl)amino)-6-methyl-5-nitroquinazolin-4-ol.
To a solution of 2-((3,4-dichlorophenyl)amino)-8-bromo-6-methyl-5-nitroquinazolin-4-ol (65 mg) in N,N-dimethylformamide (2 mL) was added 4-vinylpyridine (0.040 mL), followed by palladium acetate (14 mg), tri-o-tolylphosphine (30 mg) and N,N-diisopropylethylamine (0.44 mL). The mixture was heated at 120° C. for 22.5 h, then was cooled to room temperature. The supernatant was concentrated in vacuo to a dark oil which was triturated with a 50% (v/v) methanol/dichloromethane (5 mL). The solid product was isolated by filtration, washed with 50% (v/v) methanol/dichloromethane (5 mL) and dried to give the title compound (12 mg). 1H NMR (300 MHz, DMSO-d6) δ11.55 (s, 1H), 9.23, 8.59 (d, J=4.5 Hz, 2H), 8.43 (d, J=2.4 Hz, 1H), 8.21 (s, 1H), 8.08 (d, J=16.8 Hz, 1H), 7.62-7.31 (m, 5H), 2.26 (s, 3H). HPLC (Method B) 9.3 min. MS (APCI+): m/z 468.

reactant | 2-((3,4-dichlorophenyl)amino)-8-bromo-6-methyl-5-nitroquinazolin-4-ol | 65 mg | ClC=1C=C(C=CC1Cl)NC1=NC2=C(C=C(C(=C2C(=N1)O)[N+](=O)[O-])C)Br | C15H9BrCl2N4O3
reactant | 4-vinylpyridine | 0.040 mL | C(=C)C1=CC=NC=C1 | C7H7N
reactant | tri-o-tolylphosphine | 30 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | N,N-diisopropylethylamine | 0.44 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
catalyst | palladium acetate | 14 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 8-((1E)-2-(4-Pyridyl)vinyl)-2-((3,4-dichlorophenyl)amino)-6-methyl-5-nitroquinazolin-4-ol | 12 mg | N1=CC=C(C=C1)/C=C/C=1C=C(C(=C2C(=NC(=NC12)NC1=CC(=C(C=C1)Cl)Cl)O)[N+](=O)[O-])C | C22H15Cl2N5O3
